US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(hydroxymethyl)phenyl]urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-[(tetrahydro-2H-pyran-2-yl)-oxymethyl]phenyl]urea (34.05 g, 55.6 mmol) in methanol (340 ml) is added p-toluenesulfonic acid (10.57 g, 55.6 mmol), and the mixture is stirred at room temperature for two hours. Methanol is evaporated under reduced pressure, and to the resultant is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, an aqueous sodium hydrogen carbonate solution and a saturated brine, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure, and the resulting residue is purified by silica gel column chromatography (ethyl acetate:hexane=1:1→ethyl acetate:hexane=3:1) to give the title compound (21.6 g, 40.8 mmol). Some of the title compound (2.03 g) is dissolved in ethyl acetate (2 ml), and thereto is added hexane. The mixture is stirred at room temperature for 3 hours, and stirred under ice-cooling for one hour. The precipitated crystals are collected by filtration to give the title compound (1.70 g) as colorless crystals.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-[(tetrahydro-2H-pyran-2-yl)-oxymethyl]phenyl]urea | 55.6 mmol, 34.05 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)COC1OCCCC1)C(C)(C)C)=O | C36H44N4O5
reactant | p-toluenesulfonic acid | 55.6 mmol, 10.57 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 340 ml | CO | CH4O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(hydroxymethyl)phenyl]urea | 40.8 mmol, 21.6 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CO)C(C)(C)C)=O | C31H36N4O4
